US05968967
1-(4-Amidinophenyl)-3-(4-t-butylphenyl)-4-{[4-(ethoxycarbonylmethyloxy)-1-piperidinyl]carbonyl}-2-methyl-2H-pyrazol-5-one monohydrochloride (Compound No. 29)
Dry hydrogen chloride was introduced into a mixture of 1.19 g of 3-(4-t-butylphenyl)-4-{[4-(ethoxycarbonylmethyloxy)-1-piperidinyl]carbonyl}-1-(4-cyanophenyl)-2-methyl-2H-pyrazol-5-one and 15 ml of absolute ethanol under cooling with ice for 2 hours, and the mixture was stirred under cooling with ice for another 15 hours. 38.5 g of ammonium carbonate was added to adjust the pH to 7-8, and the reaction solution was stirred at room temperature for 22 hours. The precipitated insolubles were filtered off, and hydrochloric acid in ethanol was added to the mother liquor to adjust the pH to 3. The precipitated crystals were filtered off, and the mother liquor was concentrated under reduced pressure. The residue was purified by C-18 reverse phase silica gel chromatography (water/methanol=2:1). The resulting crude crystals were recrystallized in methanol-chloroform-ethyl acetate to give 543 mg of the title compound as colorless crystals.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-(4-t-butylphenyl)-4-{[4-(ethoxycarbonylmethyloxy)-1-piperidinyl]carbonyl}-1-(4-cyanophenyl)-2-methyl-2H-pyrazol-5-one | 1.19 g | C(C)(C)(C)C1=CC=C(C=C1)C=1N(N(C(C1C(=O)N1CCC(CC1)OCC(=O)OCC)=O)C1=CC=C(C=C1)C#N)C | C31H36N4O5
reactant | ammonium carbonate | 38.5 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-(4-Amidinophenyl)-3-(4-t-butylphenyl)-4-{[4-(ethoxycarbonylmethyloxy)-1-piperidinyl]carbonyl}-2-methyl-2H-pyrazol-5-one monohydrochloride | 543 mg | Cl.C(N)(=N)C1=CC=C(C=C1)N1N(C(=C(C1=O)C(=O)N1CCC(CC1)OCC(=O)OCC)C1=CC=C(C=C1)C(C)(C)C)C | InChI=1S/C31H39N5O5.ClH/c1-6-40-25(37)19-41-24-15-17-35(18-16-24)29(38)26-27(20-7-11-22(12-8-20)31(2,3)4)34(5)36(30(26)39)23-13-9-21(10-14-23)28(32)33;/h7-14,24H,6,15-19H2,1-5H3,(H3,32,33);1H
